US07279481B2
2-Methyl-5-(4-{2-[3-(1H-pyrazol-1-yl)phenyl]ethyl}-1-piperazinyl)quinoline (E98)
A 1M tetrahydrofuran solution of borane-tetrahydrofuran complex (3 eq) was added to a stirred solution of 2-methyl-5-(4-{[3-(1H-pyrazol-1-yl)phenyl]acetyl}-1-piperazinyl)quinoline (E97)(1 eq) in tetrahydrofuran at room temperature under an inert atmosphere. The solution was heated to 60° C. for 3 hrs. An aqueous 3N solution of HCl was added and the solution was stirred at room temperature for 12 hrs. The solvent was removed under reduced pressure. The crude material was purified by SCX cartridge affording the title compound in 52% yield.

reactant | 2-methyl-5-(4-{[3-(1H-pyrazol-1-yl)phenyl]acetyl}-1-piperazinyl)quinoline | 1 eq | CC1=NC2=CC=CC(=C2C=C1)N1CCN(CC1)C(CC1=CC(=CC=C1)N1N=CC=C1)=O | C25H25N5O
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 2-Methyl-5-(4-{2-[3-(1H-pyrazol-1-yl)phenyl]ethyl}-1-piperazinyl)quinoline | 52% yield | CC1=NC2=CC=CC(=C2C=C1)N1CCN(CC1)CCC1=CC(=CC=C1)N1N=CC=C1 | C25H27N5
